### PR TITLE
[Merged by Bors] - feat(Algebra): more instances of subsingleton units

### PR DESCRIPTION
**Pull request by YaelDillies**
Add some missing instances of `Subsingleton Mˣ`.

From Toric

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by b-mehta — COMMENTED** [review]
To be clear, is the proposal to add `IsSharpMonoid`, even though it's provably equivalent to `Subsingleton Mˣ` in all cases where the former can be written? If this is what you want, it's not clear to me that this is a good idea: let's perhaps discuss this on zulip. Thread: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Special-casing.20definitions.20in.20mathlib.3A.20IsSharpMonoid

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Algebra/Group/Units/Defs.lean [hunk 1]
```diff
@@ -18,6 +18,8 @@ An element of a `Monoid` is a unit if it has a two-sided inverse.
 For both declarations, there is an additive counterpart: `AddUnits` and `IsAddUnit`.
 See also `Prime`, `Associated`, and `Irreducible` in `Mathlib/Algebra/Associated.lean`.
 
+We also define `IsSharpMonoid`, a predicate for a monoid to be sharp, ie have a single unit.
```
Comment (vihdzp) [inline Mathlib/Algebra/Group/Units/Defs.lean]:
```suggestion
We also define `IsSharpMonoid`, a predicate for a monoid to be sharp, i.e. have a single unit.
```

File: Mathlib/Algebra/Group/Units/Defs.lean [hunk 2]
```diff
@@ -425,9 +427,23 @@ lemma IsUnit.exists_left_inv {a : M} (h : IsUnit a) : ∃ b, b * a = 1 := by
 @[to_additive] lemma IsUnit.pow (n : ℕ) : IsUnit a → IsUnit (a ^ n) := by
   rintro ⟨u, rfl⟩; exact ⟨u ^ n, rfl⟩
 
+variable (M) in
+/-- A monoid is sharp iff its only unit is `1`. -/
+@[to_additive /-- A monoid is sharp iff its only unit is `0`. -/]
+abbrev IsSharpMonoid := Subsingleton Mˣ
```
Comment (vihdzp) [inline Mathlib/Algebra/Group/Units/Defs.lean]: The definition here states something slightly different. What about adding an `IsSharpMonoid M → Unique Mˣ` instance?

**Review by vihdzp — COMMENTED** [review]
I'm not really familiar with the mathematics here, but the PR seems sensible and a cursory Google search reveals "sharp monoid" is in fact a term in the literature.

File: Mathlib/Algebra/Group/Units/Defs.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Units/Defs.lean]: That's risky and has bad performance, since it loops with `Unique Mˣ → IsSharpMonoid M`. I don't need it and I don't think it will used much at all (declarations requiring `Unique` are very rare in fact)

File: Mathlib/Algebra/Group/Units/Basic.lean [hunk 3]
```diff
@@ -287,13 +287,6 @@ instance [Monoid M] : CanLift M Mˣ Units.val IsUnit :=
 instance [Monoid M] [Subsingleton M] : Unique Mˣ where
   uniq _ := Units.val_eq_one.mp (by subsingleton)
 
-section Monoid
-variable [Monoid M]
-
-theorem units_eq_one [Subsingleton Mˣ] (u : Mˣ) : u = 1 := by subsingleton
```
Comment (kckennylau) [inline Mathlib/Algebra/Group/Units/Basic.lean:284]: Should we have a deprecation to `Units.eq_one`?

File: Mathlib/Algebra/Group/Units/Defs.lean [hunk 4]
```diff
@@ -18,6 +18,8 @@ An element of a `Monoid` is a unit if it has a two-sided inverse.
 For both declarations, there is an additive counterpart: `AddUnits` and `IsAddUnit`.
 See also `Prime`, `Associated`, and `Irreducible` in `Mathlib/Algebra/Associated.lean`.
 
+We also define `IsSharpMonoid`, a predicate for a monoid to be sharp, i.e. have a single unit.
```
Comment (kckennylau) [inline Mathlib/Algebra/Group/Units/Defs.lean]:
```suggestion
We also define `IsSharpMonoid`, a predicate for a monoid whose only unit is `1`.
```

File: Mathlib/Algebra/Group/Units/Defs.lean [hunk 5]
```diff
@@ -425,9 +427,23 @@ lemma IsUnit.exists_left_inv {a : M} (h : IsUnit a) : ∃ b, b * a = 1 := by
 @[to_additive] lemma IsUnit.pow (n : ℕ) : IsUnit a → IsUnit (a ^ n) := by
   rintro ⟨u, rfl⟩; exact ⟨u ^ n, rfl⟩
 
+variable (M) in
+/-- A monoid is sharp iff its only unit is `1`. -/
+@[to_additive /-- A monoid is sharp iff its only unit is `0`. -/]
```
Comment (kckennylau) [inline Mathlib/Algebra/Group/Units/Defs.lean]:
```suggestion
@[to_additive /-- A additive monoid is sharp iff its only unit is `0`. -/]
```

File: Mathlib/Algebra/Group/Units/Defs.lean (hunk 2 above)
Comment (kckennylau) [reply Mathlib/Algebra/Group/Units/Defs.lean]: I agree. It's redundant because you know that `1` is (syntactically) a unit already.

File: Mathlib/Algebra/Group/Units/Defs.lean [hunk 6]
```diff
@@ -425,9 +427,23 @@ lemma IsUnit.exists_left_inv {a : M} (h : IsUnit a) : ∃ b, b * a = 1 := by
...
+abbrev IsSharpMonoid := Subsingleton Mˣ
+
+@[to_additive] lemma IsSharpMonoid.of_isUnit (h : ∀ a : M, IsUnit a → a = 1) : IsSharpMonoid M :=
+  subsingleton_of_forall_eq 1 fun u ↦ Units.ext <| h u u.isUnit
+
+variable [IsSharpMonoid M]
+
+@[to_additive] lemma Units.eq_one (u : Mˣ) : u = 1 := Subsingleton.elim ..
+@[to_additive] lemma IsUnit.eq_one : IsUnit a → a = 1 := by rintro ⟨u, rfl⟩; simp [u.eq_one]
```
Comment (kckennylau) [inline Mathlib/Algebra/Group/Units/Defs.lean:433]:
```suggestion
@[to_additive] lemma IsUnit.eq_one (ha : IsUnit a) : a = 1 := congr($ha.unit.eq_one)
```

File: Mathlib/Algebra/Group/Units/Defs.lean [hunk 7]
```diff
@@ -425,9 +427,23 @@ lemma IsUnit.exists_left_inv {a : M} (h : IsUnit a) : ∃ b, b * a = 1 := by
...
+
 @[to_additive (attr := simp)]
-lemma isUnit_iff_eq_one [Subsingleton Mˣ] {x : M} : IsUnit x ↔ x = 1 :=
-  ⟨fun ⟨u, hu⟩ ↦ by rw [← hu, Subsingleton.elim u 1, Units.val_one], fun h ↦ h ▸ isUnit_one⟩
+lemma isUnit_iff_eq_one : IsUnit a ↔ a = 1 where
+  mp := IsUnit.eq_one
+  mpr := by rintro rfl; exact isUnit_one
```
Comment (kckennylau) [inline Mathlib/Algebra/Group/Units/Defs.lean:440]:
```suggestion
lemma isUnit_iff_eq_one : IsUnit a ↔ a = 1 := ⟨(·.eq_one), (· ▸ isUnit_one)⟩
```

**Review by kckennylau — APPROVED** [review]

File: Mathlib/Algebra/Group/Units/Defs.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Units/Defs.lean:433]: I don't think this is really an improvement

File: Mathlib/Algebra/Group/Units/Defs.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Units/Defs.lean:440]: I don't think this is an improvement

File: Mathlib/Algebra/Group/Submonoid/Units.lean [hunk 8]
```diff
@@ -183,6 +183,9 @@ S.unitsEquivUnitsType.trans unitsTypeEquivIsUnitSubmonoid
 
 end Units
 
+instance instSubsingletonUnits [Subsingleton Mˣ] {S : Submonoid M} : Subsingleton Sˣ :=
```
Comment (erdOne) [inline Mathlib/Algebra/Group/Submonoid/Units.lean:186]: subsingleton is a prop so this should be in camel case?

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Submonoid/Units.lean:186]: For `to` names, sure we do that. For `inst` names, I have never seen it, ie the following looks weird
```suggestion
instance inst_subsingleton_units [Subsingleton Mˣ] {S : Submonoid M} : Subsingleton Sˣ :=
```

Comment (erdOne) [reply Mathlib/Algebra/Group/Submonoid/Units.lean:186]: My suggestion (as you might have expected) would be just to drop the `inst` but you can also ask on Zulip?

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Submonoid/Units.lean:186]: Sorry, but this is bikeshedding. Let's move on

Comment (b-mehta) [reply Mathlib/Algebra/Group/Submonoid/Units.lean:186]: I'm not convinced this is bikeshedding, but I do think the naming here is correct, or at least consistent with the usual and consistent with the default. We have [136 names which include "instSubsingleton"](https://loogle.lean-lang.org/?q=%22instSubsingleton%22) and none which include "inst_subsingleton". So I think the rule used in practice is props are camel case, except instances.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by b-mehta** [comment]
Oops, sorry this slipped my mind, and thanks for the merge!
